US04845100
1.6 Grams of 6-carboxy-3,4-dihydrocarbostyril and 0.8 ml of triethylamine were suspended in 10 ml of THF (tetrahydrofuran), to this suspension was added dropwise 10 ml of THF solution containing 1.0 g of diethyl chlorophosphate at room temperature under stirring, then the whole mixture was stirred at room temperature for 3 hours. Then to this reaction mixture was added dropwise 10 ml of THF solution containing 1.4 g of geranylpiperazine, then the whole reaction mixture was stirred further at room temperature for 10 hours. After the reaction was finished, the crystals formed in the reaction mixture were removed by filtration, then the mother liquor was concentrated. To the residue thus obtained was added an aqueous solution saturated with sodium bicarbonate, then extracted with chloroform. The organic layer was washed with water and an aqueous solution saturated with sodium chloride, and dried with anhydrous sodium sulfate, then the solvent was removed by evaporation. The residue was converted into hydrochloride by adding ethanol-concentrated hydrochloric acid. Recrystallized from ethanol-water to obtain 1.08 g of 5-(4-geranyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril.hydrochloride.monohydrate. Colorless needle-like crystals. Melting point: 265°-266° C. (dec.).

reactant | 6-carboxy-3,4-dihydrocarbostyril | C(=O)(O)C=1C=C2CCC(NC2=CC1)=O | C10H9NO3
reactant | diethyl chlorophosphate | 1.0 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | geranylpiperazine | 1.4 g | C(\C=C(/C)\CCC=C(C)C)N1CCNCC1 | C14H26N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
product | 5-(4-geranyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril.hydrochloride | 1.08 g | Cl.C(\C=C(/C)\CCC=C(C)C)N1CCN(CC1)C(=O)C1=C2CCC(NC2=CC=C1)=O | InChI=1S/C24H33N3O2.ClH/c1-18(2)6-4-7-19(3)12-13-26-14-16-27(17-15-26)24(29)21-8-5-9-22-20(21)10-11-23(28)25-22;/h5-6,8-9,12H,4,7,10-11,13-17H2,1-3H3,(H,25,28);1H/b19-12+;
